US04980486
A suspension of 12.62 g of p-(5-butyl-2-pyrimidinyl)-benzoic acid in 150 ml of acetone was treated dropwise with a solution of 8.1 ml of triethylamine in 25 ml of acetone while cooling with an ice/sodium chloride bath (internal temperature -4° C.) and thereafter dropwise within 15 minutes with a solution of 4.9 ml of methyl chloroformate in 25 ml of acetone. The suspension was stirred for a further 75 minutes and then treated dropwise within 10 minutes with a solution of 4.90 g of sodium azide in 17.5 ml of water. The mixture was stirred for another 1 hour while cooling with the ice/sodium chloride bath and then for 30 minutes without cooling. The mixture was poured on to 300 ml of ice-water and extracted once with 250 ml of diethyl ether and twice with 100 ml of diethyl ether each time. The extracts were washed with 100 ml of water, dried and concentrated in vacuo at a bath temperature of 35° C., whereby 13.32 g of solid, yellowish p-(5-butyl 2-pyrimidinyl)benzoic acid azide were obtained. The azide was dissolved in 100 ml of toluene and the solution was added dropwise slowly to a flask heated to 90° C., whereby a strong evolution of nitrogen took place. The solution was heated to 108° C. for a further 1.5 hours and then concentrated. There were obtained 11.59 g of crude, pale yellow p-(5-butyl-2-pyrimidinyl)phenyl isocyanate; m.p. 48° C.

reactant | p-(5-butyl-2-pyrimidinyl)-benzoic acid | 12.62 g | C(CCC)C=1C=NC(=NC1)C1=CC=C(C(=O)O)C=C1 | C15H16N2O2
reactant | triethylamine | 8.1 ml | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 4.9 ml | ClC(=O)OC | C2H3ClO2
reactant | sodium azide | 4.90 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 150 ml | CC(=O)C | C3H6O
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | water | 17.5 ml | O | H2O
product | p-(5-butyl 2-pyrimidinyl)benzoic acid azide | C(CCC)C=1C=NC(=NC1)C1=CC=C(C(=O)N=[N+]=[N-])C=C1 | C15H15N5O
